US06649656B1
Synthesis of 2-(2-(4-(4-(hydroxycarbonylmethoxy)phenoxy)phenyl)-acetylamino)benzoic acid methyl ester
TFA (4 ml) was added to 2-(2-(4-(4-(t-butoxycarbonylmethoxy)-phenoxy)phenyl)acetylamino)benzoic acid methyl ester produced by the Example 27 and the mixture was stirred for 2 hours at room temperature. After the reaction, TFA was distilled out under reduced pressure and the product was dissolved in ethyl acetate. The organic layer was washed with water and dried with anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to quantitatively obtain the subject compound (164 mg). The result of 1H-NMR was consistent with the above structure.

reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-(2-(4-(4-(t-butoxycarbonylmethoxy)-phenoxy)phenyl)acetylamino)benzoic acid methyl ester | COC(C1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)OCC(=O)OC(C)(C)C)=O)=O | C28H29NO7
product | 2-(2-(4-(4-(hydroxycarbonylmethoxy)phenoxy)phenyl)-acetylamino)benzoic acid methyl ester | 164 mg, Yield: 100% | COC(C1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)OCC(=O)O)=O)=O | C24H21NO7
